US08227489B2
8.1 6-Methylamino-2-methyl-3-aminopyridine (Compound No. Va)
A suspension of 0.4 g (2.39 mmol) of 6-methylamino-2-methyl-3-nitropyridine (Prace Naukowe Akedimii Ekonomicznej imienia Oskara Langego we Wroclawiu (1988), 435, 119-28) and 0.1 g of 10% palladium-on-charcoal in 50 ml of methanol is stirred at 20° C. for 6 hours under 4 atmospheres of hydrogen. The reaction mixture is subsequently filtered through a celite plug and then concentrated under reduced pressure. 0.33 g of the expected product is thus isolated in the form of an oil which will be used as is in the continuation of the synthesis.

reactant | 6-methylamino-2-methyl-3-nitropyridine | 2.39 mmol, 0.4 g | CNC1=CC=C(C(=N1)C)[N+](=O)[O-] | C7H9N3O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-on-charcoal | 0.1 g | [Pd] | Pd
product | 6-Methylamino-2-methyl-3-aminopyridine | 0.33 g | CNC1=CC=C(C(=N1)C)N | C7H11N3
